### PR TITLE
diff_unique on numField

### PR DESCRIPTION
**Pull request by mkerjean**
Generalization of `diff_unique` and its consequences from vector spaces on realFieldTypes to vector spaces on numFieldTypes.

### CODE REVIEW

**Comment by CohenCyril** [comment]
Please rebase to benefit from the repaired nix action.

File: theories/derive.v [hunk 1]
```diff
@@ -483,14 +483,14 @@ Grab Existential Variables. all: end_near. Qed.
...
-Variable R : realFieldType.
+Section DifferentialR3_numFieldType.
+Variable R : numFieldType.
 
 Lemma littleo_linear0 (V W : normedModType R) (f : {linear V -> W}) :
   (f : V -> W) =o_ (0 : V) id -> f = cst 0 :> (V -> W).
 Proof.
-move/eqoP => oid.
-rewrite funeqE => x; apply/eqP; case: (ler0P `|x|) => [|xn0].
+move/eqoP => oid.
```
Comment (CohenCyril) [inline theories/derive.v:492]:
```suggestion
move/eqoP => oid.
```

File: theories/derive.v [hunk 2]
```diff
@@ -678,7 +678,7 @@ Lemma linear_lipschitz (V' W' : normedModType R) (f : {linear V' -> W'}) :
 Proof.
 move=> /(_ 0); rewrite linear0 => /(_ _ (nbhsx_ballx 0 1%:pos)).
 move=> /nbhs_ballP [_ /posnumP[e] he]; exists (2 / e%:num) => // x.
-case: (lerP `|x| 0) => [|xn0].
+case: ( (real_le0P (normr_real x))) => [|xn0].
```
Comment (CohenCyril) [inline theories/derive.v:681]:
```suggestion
have [|xn0] := real_le0P (normr_real x)
```

File: theories/derive.v [hunk 3]
```diff
@@ -483,14 +483,14 @@ Grab Existential Variables. all: end_near. Qed.
...
+Section DifferentialR3_numFieldType.
+Variable R : numFieldType.
 
 Lemma littleo_linear0 (V W : normedModType R) (f : {linear V -> W}) :
   (f : V -> W) =o_ (0 : V) id -> f = cst 0 :> (V -> W).
 Proof.
-move/eqoP => oid.
-rewrite funeqE => x; apply/eqP; case: (ler0P `|x|) => [|xn0].
+move/eqoP => oid. 
+rewrite funeqE => x; apply/eqP;  case: (real_le0P (normr_real x)) => [|xn0].
```
Comment (CohenCyril) [inline theories/derive.v:493]:
```suggestion
rewrite funeqE => x; apply/eqP;  have [|xn0] := real_le0P (normr_real x).
```

File: theories/derive.v [hunk 4]
```diff
@@ -747,9 +747,9 @@ Lemma bilinear_schwarz (U V' W' : normedModType R)
 Proof.
 move=> /(_ 0); rewrite linear0r => /(_ _ (nbhsx_ballx 0 1%:pos)).
 move=> /nbhs_ballP [_ /posnumP[e] he]; exists ((2 / e%:num) ^+2) => // u v.
-case: (lerP `|u| 0) => [|un0].
+case: (real_le0P (normr_real u)) => [|un0].
```
Comment (CohenCyril) [inline theories/derive.v:750]:
```suggestion
have [|un0] := real_le0P (normr_real u).
```

File: theories/derive.v [hunk 5]
```diff
@@ -747,9 +747,9 @@ Lemma bilinear_schwarz (U V' W' : normedModType R)
...
   by rewrite normr_le0 => /eqP->; rewrite linear0l !normr0 mulr0 mul0r.
-case: (lerP `|v| 0) => [|vn0].
+case:  (real_le0P (normr_real v)) => [|vn0].
```
Comment (CohenCyril) [inline theories/derive.v:752]:
```suggestion
have [|vn0] := real_le0P (normr_real v).```

**Comment by CohenCyril** [comment]
:scream: :scream: :scream: :scream: :scream: :scream: :scream:

**Comment by CohenCyril** [comment]
> Please rebase to benefit from the repaired nix action.

this was not a rebase on the right branch :scream:

File: theories/derive.v [hunk 6]
```diff
@@ -484,14 +484,14 @@ Grab Existential Variables. all: end_near. Qed.
...
-Variable R : realFieldType.
+Section DifferentialR3_numFieldType.
+Variable R : numFieldType.
 
 Lemma littleo_linear0 (V W : normedModType R) (f : {linear V -> W}) :
   (f : V -> W) =o_ (0 : V) id -> f = cst 0 :> (V -> W).
 Proof.
 move/eqoP => oid.
-rewrite funeqE => x; apply/eqP; case: (ler0P `|x|) => [|xn0].
+rewrite funeqE => x; apply/eqP;  have [|xn0] := real_le0P (normr_real x).
```
Comment (CohenCyril) [inline theories/derive.v:494]:
```suggestion
rewrite funeqE => x; apply/eqP; have [|xn0] := real_le0P (normr_real x).
```
